US05210022
4. 6-Chloro-N-acetylindol-3-ol
A solution of 572 ml of concentrated sulfuric acid was added to 63 ml of water with stirring and cooling. When the acid solution was at room temperature, 134 g (0.53 M) of 6-chloroindoxyl-1,3-diacetate was added, portionwise, with stirring over a period of one hour keeping the temperature of the solution between 20° to 25° C. After stirring for 30 additional minutes after the addition was complete, the solution was poured onto 2 kg ice. The ice was allowed to melt and the insoluble product was filtered off and washed with cold water. This product was then protected from light and air and dried in a vacuum oven at room temperature. The yield of light yellow solid was 110 gm. This product was very unstable and could not be stored for long period without decomposition. It was used immediately in the next step.

reactant | sulfuric acid | 572 ml | S(O)(O)(=O)=O | H2O4S
reactant | 6-chloroindoxyl-1,3-diacetate | 0.53 M, 134 g | CC(=O)N1C=C(C2=C1C=C(C=C2)Cl)OC(=O)C | C12H10ClNO3
solvent | water | 63 ml | O | H2O
product | 6-Chloro-N-acetylindol-3-ol | ClC1=CC=C2C(=CN(C2=C1)C(C)=O)O | C10H8ClNO2
